US06235731B1
A solution of 0.63 g of 2,6-difluoropyridine in 0.2 mL of formamide was stirred for 3 hours at 150° C. The reaction mixture was cooled to room temperature, to which were added water (100 mL) and ethyl acetate (100 mL×3) for extraction. The extract solution was dried over anhydrous magnesium sulfate, followed by concentration to give powdery precipitate of 2-fluoro-6-(formylamino)pyridine. The powdery product was collected by filtration and dried for 2 hours at 40° C. under reduced pressure (0.4 g).

reactant | 2,6-difluoropyridine | 0.63 g | FC1=NC(=CC=C1)F | C5H3F2N
reactant | water | 100 mL | O | H2O
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
reactant | formamide | 0.2 mL | C(=O)N | CH3NO
product | 2-fluoro-6-(formylamino)pyridine | FC1=NC(=CC=C1)NC=O | C6H5FN2O
